Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Symptomatic fibroid uterus
 
Major Surgical or Invasive Procedure:
Diagnostic laparoscopy converted to a open total abdominal 
hysterectomy, lysis of adhesions, cystoscopy. 

 
History of Present Illness:
___ gravida 1, para 0 who has a known fibroid uterus.  
She had heavy menstrual bleeding and painful intercourse.  In 
the past, she has used Tylenol No. 3 for relief of her pain.  
Her last ultrasound was done on ___, which showed a uterus 
which measured 10.5 x 9.6 x 10.3 cm, which has increased in size 
since her prior study on ___.  A right-sided fibroid, which 
measured 4.3 x 4.7 x 3.4 cm has increased in size.  The left 
side of the fibroid, which measured 4.1 x 3.1 x 4.6, has also 
increased in size
 
Past Medical History:
Duodenal ulcer diagnosed approximately ___
years ago.
OB/GYN HISTORY:  Menarche at 13.  She cycles every 28 days, 
which
continues to be heavy as stated above.  She does have pain with
her menses, ___.  She is sexually active.  Domestic violence
screen negative.  She has had one pregnancy, which ended a first
trimester termination without complications.  She denies any
history of abnormal Pap smears or sexually transmitted
infections.

 
Social History:
___
Family History:
She has an aunt, mother and paternal relatives with breast 
cancer.  She has a sister with cervical cancer, grandmother and 
father with hypertension, grandmother and father with 
cardiovascular disease.  She has a lung, colon, stomach and 
brain cancer in her family as well.

 
Physical Exam:
From ___ by Dr. ___
GENERAL:  This is a well-developed, well-nourished woman in no
apparent distress.
VITAL SIGNS:  Weight 239, blood pressure 128/72, last menstrual
period ___.
ABDOMEN:  Soft, nondistended, nontender.  Negative for
hepatosplenomegaly, negative for palpable masses.
PELVIC:  Normal female external genitalia.  Bartholin, urethral
and Skene's glands were normal.  Vaginal vault, normal appearing
discharge.  There were no lesions.  Cervix was without cervical
motion tenderness.  Uterus approximately 12 cm in maximal
vertical dimension.  Adnexa without masses or tenderness
bilaterally.

 
Pertinent Results:
None.
 
Brief Hospital Course:
Ms. ___ was admitted to the GYN service post-operatively.  
Please see operative note for full details.  Post-operatively 
she was able to tolerate a regular diet, her pain was able to be 
controlled with oral pain medication, she was ambulatory and 
able to void after her foley catheter came out.  She was 
discharged on post-operative day 2 without complications.  She 
will follow-up with Dr. ___
 
___ on Admission:
ACETAMINOPHEN-CODEINE - 300 mg-30 mg Tablet - ___ Tablet(s) by
mouth every 6 hours as needed for pain
FLUOXETINE -  (Prescribed by Other Provider) - 10 mg Capsule -
one Capsule(s) by mouth daily
LORAZEPAM -  (Prescribed by Other Provider) - 1 mg Tablet - one
Tablet(s) by mouth twice per day
PHENTERMINE -  (Prescribed by Other Provider) - 37.5 mg Capsule 
-
0.5 (One half) Capsule(s) by mouth daily x one week then one
daily x one week then repeat
ZOLPIDEM -  (Prescribed by Other Provider) - 10 mg Tablet - one
Tablet(s) by mouth daily

 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*40 Tablet(s)* Refills:*1*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for Pain: do not exceed 4g of 
acetaminophen per day.
Disp:*40 Tablet(s)* Refills:*0*
3. fluoxetine 10 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for Insomnia.  
7. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO QID (4 times a day) as needed 
for dyspepsia.  
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day as needed for constipation.
Disp:*30 Capsule(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks.  
**if no cervix p LSC hyst, nothing in vagina for 3 months  
* You may eat a regular diet.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
* If you have staples, they will be removed at your follow-up 
visit.
  
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___